US20010006977A1
d. 2-(4-chloro-3-nitro-phenyl)-2-methyl-3-hydroxy-propionic acid
Prepared analogously to Example 1i from 2-(4-chloro-3-nitro-phenyl)-3-nitroxy-2-methyl-propionic acid and 6N hydrochloric acid in dioxane.

reactant | 2-(4-chloro-3-nitro-phenyl)-3-nitroxy-2-methyl-propionic acid | ClC1=C(C=C(C=C1)C(C(=O)O)(CO[N+](=O)[O-])C)[N+](=O)[O-] | C10H9ClN2O7
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-chloro-3-nitro-phenyl)-2-methyl-3-hydroxy-propionic acid | ClC1=C(C=C(C=C1)C(C(=O)O)(CO)C)[N+](=O)[O-] | C10H10ClNO5
